US07648987B2
b) 8-Chloro-1-(2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazin-3-one
C-(3-Chloro-pyrazin-2-yl)-C-(2-phenyl-quinolin-7-yl)-methylamine (2.0 g, 5.8 mmol) was dissolved in anhydrous THF (35.0 mL), followed by the addition of DIPEA (1.21 mL, 6.92 mmol) at rt. The dark brown solution was then charged with para-nitrophenyl chloroformate (1.28 g, 6.34 mmol) at rt, and warmed to 45° C. for 17 h. The crude reaction was concentrated in vacuo and dissolved with EtOAc and water. Yellow precipitate crashed out of solution and was filtered. The solid was washed with hexanes and dried under vacuum to yield the title compound as a yellow solid; MS (ES+): m/z 373.04 (100) [MH+], 375.00 (30) [MH+++]; HPLC: tR=3.15 min (OpenLynx, polar—5 min); 1HNMR (400 MHz, DMSO-d6) δ ppm 6.80-7.05 (m, 2H), 7.43-7.66 (m, 4H), 7.79 (dd, J=8.34, 1.77 Hz, 1H), 8.02-8.17 (m, 2H), 8.19-8.35 (m, 4H), 8.53 (d, J=8.59 Hz, 1H).

reactant | C-(3-Chloro-pyrazin-2-yl)-C-(2-phenyl-quinolin-7-yl)-methylamine | 5.8 mmol, 2.0 g | ClC=1C(=NC=CN1)C(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)N | C20H15ClN4
reactant | DIPEA | 6.92 mmol, 1.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | para-nitrophenyl chloroformate | 6.34 mmol, 1.28 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 35.0 mL | C1CCOC1 | C4H8O
product | 8-Chloro-1-(2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazin-3-one | ClC=1C=2N(C=CN1)C(NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)=O | C21H13ClN4O
